US04616239
30.3 g of bis(p-hydroxyphenyl) sulfone, 18.5 g of isopropylbromide, and 22.2 g of potassium carbonate as acid-binding agent were added to 200 ml of dimethylformamide, then stirred for 4 hours at about 120° C. and dimethylformamide was distilled off under reduced pressure. When this was accomplished, chloroform was added to the residue to extract crude 4-hydroxy-4'-isopropoxydiphenylsulfone. Then this crude compound was refined by using a silica gel column chromatography and 15.7 g of 4-hydroxy-4'-isopropoxydiphenylsulfone was obtained in white microfine crystals with a melting point of 129.0°-131.0° C.

reactant | bis(p-hydroxyphenyl) sulfone | 30.3 g | OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)O | C12H10O4S
reactant | isopropylbromide | 18.5 g | C(C)(C)Br | C3H7Br
reactant | potassium carbonate | 22.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-hydroxy-4'-isopropoxydiphenylsulfone | 15.7 g | CC(C)OC1=CC=C(C=C1)S(=O)(=O)C2=CC=C(C=C2)O | C15H16O4S
